US04675316
A. 1-(p-chlorophenylthio)hexan-2-ol
To 28.9 g (0.2 mole) the p-chlorothiophenol and 8.0 g (0.2 mole) of sodium hydroxide in 100 ml of water is added 22.0 g (0.22 mole) of 1,2-epoxyhexane over 10 minutes. When addition is completed, the mixture is heated to reflux for 16 hours. The mixture is cooled, combined with 300 ml of water and the organic phase is separated.

reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydroxide | 0.2 mole, 8.0 g | [OH-].[Na+]
reactant | 1,2-epoxyhexane | 0.22 mole, 22.0 g | O1CC1CCCC | C6H12O
solvent | water | 100 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 1-(p-chlorophenylthio)hexan-2-ol | ClC1=CC=C(C=C1)SCC(CCCC)O | C12H17ClOS
